US05939422
(i) 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-2-thioxanthine
14.62 g (40 mmoles) of 1-(3-cyclopentyloxy-4-methoxy-benzyl)-5,6-diamino-2-thiouracil were dissolved in 200 ml of formic acid. The solution was concentrated in vacuo at room temperature to remove the water. 50 ml of formic acid were added and the procedure repeated. After a total of 1 hour the formic acid solution was concentrated to 30 ml at 25° and diluted with 300 ml of water. The crystals were collected, washed, and dried: 13.48 g (86.3%) of crude 5-formamide (mp 210-30° C.), which was refluxed in 86 ml of 1N NaOH for 15 min. The turbid solution was treated twice with 0.6 g of charcoal, filtered, acidified with 5N HCl to pH 2, and neutralized to pH 6.5. The amorphous solid was collected, washed, and dried at 60° C.: 11.93 g (80.1%) of crude 2-thioxanthine, which was dissolved in 150 ml of THF, treated with charcoal (5%), filtered, concentrated to 40 ml, and diluted with 250 ml of ethanol. After concentration to 120 ml the formed solid is collected, washed, and dried: 9.21 g (61.9%) of 2-thioxanthine with mp 254-65° C.

reactant | 1-(3-cyclopentyloxy-4-methoxy-benzyl)-5,6-diamino-2-thiouracil | 40 mmoles, 14.62 g | C1(CCCC1)OC=1C=C(CN2C(=S)NC(=O)C(=C2N)N)C=CC1OC | C17H22N4O3S
reactant | formic acid | 200 ml | C(=O)O | CH2O2
product | 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-2-thioxanthine | C1(CCCC1)OC=1C=C(CN2C(NC(C=3NC=NC23)=O)=S)C=CC1OC | C18H20N4O3S
